US04294842
Sodium nitrite (1.38 g, 0.02 mol) in water (15 ml) was added dropwise to a solution of 3-(4-aminophenylthiomethyl)-1,2,4-oxadiazole, (4.14 g, 0.02 mol) in acetic acid (120 ml) and 2 N sulphuric acid (40 ml) at 0° with stirring. The pale yellow solution thus obtained was added over 30 min. to a stirred mixture of cuprous thiocyanate (6 g) and potassium thiocyanate (60 g) in water (100 ml) at 0°, and the mixture stirred overnight. The mixture was then neutralised with solid sodium hydrogen carbonate and extracted with chloroform to give a yellow solid which was recrystallised from propan-2-ol to give 3-(4-thiocyanatophenylthiomethyl)-1,2,4-oxadiazole, m.p. 78°.

reactant | Sodium nitrite | 0.02 mol, 1.38 g | N(=O)[O-].[Na+]
reactant | 3-(4-aminophenylthiomethyl)-1,2,4-oxadiazole | 0.02 mol, 4.14 g | NC1=CC=C(C=C1)SCC1=NOC=N1 | C9H9N3OS
reactant | potassium thiocyanate | 60 g | [S-]C#N.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 2 N, 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | 3-(4-thiocyanatophenylthiomethyl)-1,2,4-oxadiazole | S(C#N)C1=CC=C(C=C1)SCC1=NOC=N1 | C10H7N3OS2
